US07777047B2
N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of N-[2-(benzylthio)-3-oxopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (800 mg), thiomorpholine (290 mg) and tetrahydrofuran (30 mL) was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (450 mg) was added at room temperature, and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (3:2-1:4, volume ratio) to give the title compound (590 mg, yield 64%) as colorless crystals. The crystals were recrystallized from acetone-hexane to give colorless prism crystals. melting point 160-161° C.

reactant | N-[2-(benzylthio)-3-oxopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 800 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)NS(=O)(=O)C1=NC=CC=C1)C=O | C27H28N4O6S2
reactant | thiomorpholine | 290 mg | N1CCSCC1 | C4H9NS
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | Sodium triacetoxyborohydride | 450 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Water | O | H2O
product | N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 590 mg, yield 64% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)NS(=O)(=O)C1=NC=CC=C1)CN1CCSCC1 | C31H37N5O5S3
